US07414076B2
Preparation of 3-isopropylamino-1-propanesulfonic acid (Compound CG)
Isopropylamine (2.5 mL, 29 mmol) was added to a solution of 1,3-propane sultone (3.05 g, 25 mmol) in a mixture of dichloromethane/ether (40 mL, 1:1). The mixture was heated at reflux for 3 hours. The reaction mixture was cooled to room temperature and hexane (10 mL) was added. The solid material was collected by filtration, rinsed with ether (10 mL), and dried in vacuo. Compound CG was obtained as a fine white powder (2.98 g, 65.6% yield). m.p. 240-43° C. 1H NMR (500 MHz, D2O) δ 1.06 (d, J=6.3 Hz, 6H), 1.86 (qt, J=7.6 Hz, 2H), 2.76 (t, J=7.6 Hz, 2H), 3.14 (t, J=7.8 Hz, 2H), 3.13-3.21 (m, J=6.6 Hz, 1H). 13C NMR (125 MHz, D2O) δ 18.2, 21.5, 25.8, 43.4, 47.9, 50.8.

reactant | Isopropylamine | 29 mmol, 2.5 mL | C(C)(C)N | C3H9N
reactant | 1,3-propane sultone | 25 mmol, 3.05 g | C1COS(=O)(=O)C1 | C3H6O3S
reactant | hexane | 10 mL | CCCCCC | C6H14
solvent | dichloromethane ether | 40 mL | ClCCl.CCOCC
product | 3-isopropylamino-1-propanesulfonic acid | 2.98 g, 65.6% yield | C(C)(C)NCCCS(=O)(=O)O | C6H15NO3S
